US07754737B2
Step 1. (3R)-3-((S)-1-(3-chlorophenyl)-4-formyl-1-hydroxybutyl)-N—((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide
A 100 mL, round-bottom flask was charged with (3R)-3-((S)-1-(3-chlorophenyl)-1,5-dihydroxypentyl)-N—((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-yl)piperidine-1-carboxamide (0.0544 g (0.0852 mmol), DMSO (2.5 mL) and Et3N (1 mL). The flask was cooled in an ice bath and a mixture of pyridine-sulphur trioxide complex (0.24 g, 1.51 mmol) and dry DMSO (2.5 mL) was added. After 10 min, the ice bath was removed. The reaction mixture was allowed to stir at rt for 3 h. The mixture was quenched with brine, extracted with EtOAc (3×) and dried over Na2SO4. Removal of the solvent left crude (3R)-3-((S)-1-(3-chlorophenyl)-4-formyl-1-hydroxybutyl)-N—((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide (0.1036 g), which was carried on to the next step without further purification. LC-MS (3 min) tR=2.43 min, m/z 658, 660 (MNa+), 636 (MH+), 618, 620.

reactant | (3R)-3-((S)-1-(3-chlorophenyl)-1,5-dihydroxypentyl)-N—((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)-amino)propan-2-yl)piperidine-1-carboxamide | ClC=1C=C(C=CC1)[C@@](CCCCO)(O)[C@H]1CN(CCC1)C(=O)N[C@H](CN(C(=O)OCC[Si](C)(C)C)C)CC1CCCCC1 | C33H56ClN3O5Si
reactant | Et3N | 1 mL | CCN(CC)CC | C6H15N
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | (3R)-3-((S)-1-(3-chlorophenyl)-4-formyl-1-hydroxybutyl)-N—((S)-3-cyclohexyl-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide | ClC=1C=C(C=CC1)[C@@](CCCC=O)(O)[C@H]1CN(CCC1)C(=O)N[C@H](CN(C(=O)OCC[Si](C)(C)C)C)CC1CCCCC1 | C33H54ClN3O5Si
